US07666888B2
1-[(5-benzylisoxazol-4-yl)carbonyl]-3-phenylpyrrolidin-3-ol
A solution of 5-benzylisoxazole-4-carboxylic acid (10 mg, 0.05 mmol), TBTU (19 mg, 0.06 mmol, 1,2 equ.) and N-ethyl-N-isopropylpropan-2-amine (17 μL, 0.10 mmol, 2 equ) in DMF (0.3 mL) was added to 3-phenylpyrrolidin-3-ol hydrochloride (10 mg, 0.05 mmol) and the reaction mixture was left at rt for 2 h. The solvent was evaporated and the crude product was purified by RP-HPLC. After evaporation of the solvents the product was dried in vacuum to yield the title compound (4 mg). MS (ESI, pos. ion) m/z calcd for C21H20N2O3: 348.1474, found 348.1481.

reactant | 5-benzylisoxazole-4-carboxylic acid | 0.05 mmol, 10 mg | C(C1=CC=CC=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | TBTU | 0.06 mmol, 19 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.10 mmol, 17 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-phenylpyrrolidin-3-ol hydrochloride | 0.05 mmol, 10 mg | Cl.C1(=CC=CC=C1)C1(CNCC1)O
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 1-[(5-benzylisoxazol-4-yl)carbonyl]-3-phenylpyrrolidin-3-ol | 4 mg | C(C1=CC=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)(O)C1=CC=CC=C1 | C21H20N2O3
